US04791225
2,3-Dichloro-4,5-difluorobenzamide
A solution of 2,3-dichloro-4,5-difluorobenzonitrile (1.0 g) in concentrated sulfuric acid (2.5 ml) was stirred at 90° to 100° C. for 30 minutes and then cooled. The residue was poured into ice water and the resulting precipitate was collected by filtration and recrystallized from benzene to give the title compound (0.51 g) as colorless needles, mp 153°-155° C.

reactant | 2,3-dichloro-4,5-difluorobenzonitrile | 1.0 g | ClC1=C(C#N)C=C(C(=C1Cl)F)F | C7HCl2F2N
reactant | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-Dichloro-4,5-difluorobenzamide | 0.51 g | ClC1=C(C(=O)N)C=C(C(=C1Cl)F)F | C7H3Cl2F2NO
